US05877196
1-[4-(4-Aminobutoxy)phenyl]ethanone
A suspension of 13.5 g of 2-[4-(4-acetyl-phenoxy)butyl]-1H-isoindole-1,3(2H)-dione in 500 ml of ethanol is treated with 1.4 ml of anhydrous hydrazine, and the mixture stirred at reflux for 9 hours. After cooling to room temperature, the precipitate is collected. Concentration of the filtrate gives the crude title compound, which is used directly for further synthesis.

reactant | 2-[4-(4-acetyl-phenoxy)butyl]-1H-isoindole-1,3(2H)-dione | 13.5 g | C(C)(=O)C1=CC=C(OCCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C20H19NO4
reactant | hydrazine | 1.4 ml | NN | H4N2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-[4-(4-Aminobutoxy)phenyl]ethanone | NCCCCOC1=CC=C(C=C1)C(C)=O | C12H17NO2
